US06936600B2
(R)-1-(4-Trifluoromethanesulfonyloxy-pyrimidin-2-yl)-ethyl butyrate.
Method 1: To a solution of (R)-2-(1-butyryloxy-ethyl)-3H-pyrimidin-4-one (prepared according to the method of Preparation Fourteen, 52 g, 248 mmol) and triethylamine (36.2 mL, 260 mmol) in dichloromethane (830 mL) at 0° C. with stirring under nitrogen atmosphere was added a solution of trifluoromethanesulfonic anhydride (44 mL, 260 mmol) in dichloromethane (70 mL) dropwise via addition funnel over 30 min, maintaining an internal temperature of 4-8° C. This mixture was allowed to stir an additional 15 min at 4° C., then quenched with water. After stirring for 10 min, the layers were separated and the aqueous layer was extracted with dichloromethane (3×). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated to give 47.2 g (−100%) of the title compound as a dark oil which was used immediately in the next step. 1H NMR (CDCl3, 400 MHz) δ 8.83 (d, 1H), 7.03 (d, 1H), 5.82 (q, 1H), 2.41-2.32 (c, 2H), 1.72-1.60 (c, 2H), 1.62 (d, 3H), 0.95 (t, 3H); MS (APCI) 343 (MH+).

reactant | (R)-2-(1-butyryloxy-ethyl)-3H-pyrimidin-4-one | C(CCC)(=O)O[C@H](C)C1=NC=CC(N1)=O | C10H14N2O3
reactant | triethylamine | 260 mmol, 36.2 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 260 mmol, 44 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 830 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
product | (R)-1-(4-Trifluoromethanesulfonyloxy-pyrimidin-2-yl)-ethyl butyrate | 47.2 g, -100% | C(CCC)(=O)O[C@H](C)C1=NC=CC(=N1)OS(=O)(=O)C(F)(F)F | C11H13F3N2O5S
